US07368578B2
Lithium aluminum hydride (7.19 g) was suspended in tetrahydrofuran (400 mL). To the obtained mixture were added a solution (100 mL) of ethyl 1-ethyl-1H-pyrazole-4-carboxylate (29.00 g) in tetrahydrofuran on an ice bath with stirring. After stirring the reaction mixture at room temperature for 1.5 hrs, sodium sulfate decahydrate (80 g) was added by small portions on an ice bath with stirring, and the mixture was further stirred at room temperature for 16 hrs. The solid was filtered, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give (1-ethyl-1H-pyrazol-4-yl)methanol as a colorless oil (16.85 g, yield 78%) from a fraction eluted with ethyl acetate-methanol (1:0 to 49:1, v/v).

reactant | Lithium aluminum hydride | 7.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-ethyl-1H-pyrazole-4-carboxylate | 100 mL, 29.00 g | C(C)N1N=CC(=C1)C(=O)OCC | C8H12N2O2
reactant | sodium sulfate decahydrate | 80 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | (1-ethyl-1H-pyrazol-4-yl)methanol | 16.85 g, yield 78% | C(C)N1N=CC(=C1)CO | C6H10N2O
